US04863947
Preparation of methyl 2-methyl-2-hydroxymethyl-3-(4-chlorophenyl)-3-keto-propanoate
Into a 5 liter RBF is placed 1000 g (4.37 mole) of methyl 2-methyl-3-(4-chlorophenyl)-3-keto-propanoate, 157 g (5.25 mole) of paraformaldehyde, 1000 ml of pyridine, and 50 g of Triton B (40% in MeOH). The resulting mixture was heated 50° C. for 2 hours. After cooling to room temperature, the reaction mixture was transferred to a 12 liter separatory funnel and 1.5 liters of ether and 2 kgs of ice are added. The mixture is slowly acidified by 1.0 liters of conc HCl and the organic phase is separated, washed with 2 liters of brine and dried over MgSO4. On concentration, it affords 1100 g (100%) of a red oil, methyl 2-methyl-2-hydroxymethyl-3-(4-chlorophenyl)-3-keto-propanoate. NMR data was consistent with the structure.

reactant | methyl 2-methyl-3-(4-chlorophenyl)-3-keto-propanoate | 4.37 mole, 1000 g | CC(C(=O)OC)C(=O)C1=CC=C(C=C1)Cl | C11H11ClO3
reactant | paraformaldehyde | 5.25 mole, 157 g | C=O | CH2O
reactant | pyridine | 1000 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1.0 liters | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | ether | 1.5 liters | CCOCC | C4H10O
product | methyl 2-methyl-2-hydroxymethyl-3-(4-chlorophenyl)-3-keto-propanoate | 1100 g, 100% | CC(C(=O)OC)(C(=O)C1=CC=C(C=C1)Cl)CO | C12H13ClO4
